US05216015
Step 9: Preparation of 3α, 12α-dihydroxy-5β-androstan-17-one
A mixture of 3α, 12α-diacetoxy-5β-androstan-17-one (5.5 g) and lithium hydroxide monohydrate (1.7 g) in a solution of methanol (20 ml), tetrahydrofuran (20 ml) and water (20 ml) is stirred at room temperature for about two hours, diluted with ethyl acetate and washed three times with water. The organic solution is dried over magnesium sulfate, filtered and concentrated in vacuo. Benzene is azeotroped from the residue to give the desired product which is used, without further treatment, for the next step.

reactant | 3α, 12α-diacetoxy-5β-androstan-17-one | 5.5 g | C(C)(=O)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)OC(C)=O)=O | C23H34O5
reactant | lithium hydroxide monohydrate | 1.7 g | O.[OH-].[Li+]
reactant | methanol | 20 ml | CO | CH4O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | 3α, 12α-dihydroxy-5β-androstan-17-one | O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)O)=O | C19H30O3
